US04547501
(a) Preparation of 2,3-dihydroxy-6-chloroquinoxaline
A mixture consisting of 100 g. (0.07 mole) of 4-chloro-1,2-phenylenediamine and 750 ml. of diethyl oxalate was refluxed overnight and for a period of approximately 16 hours. Upon completion of this step, the reaction mixture was cooled to room temperature (~20° C.), filtered and the recovered product subsequently washed with ethanol and air-dried to constant weight to ultimately afford 140 g. of pure 2,3-dihydroxy-6-chloroquinoxaline, m.p.>260° C.

reactant | 4-chloro-1,2-phenylenediamine | 0.07 mole | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 2,3-dihydroxy-6-chloroquinoxaline | OC1=NC2=CC=C(C=C2N=C1O)Cl | C8H5ClN2O2
